US05807886
To 2-aminoindane hydrochloride (19.11 g, 0.112 mol) at 0° C. was added sulfuric acid (60 ml) followed by potassium nitrate (11.84 g, 0.117 mol). The mixture was allowed to warm to room temperature, stirred for an additional 2 hr, then dumped onto ice/50% NaOH (500 ml total). The mixture was extracted with ether (3×20 ml) and the combined extracts were washed with water, dried over magnesium sulfate, filtered, and concentrated to an oil which was converted to the hydrochloride salt. Recrystallization from isopropanol/methanol afforded 5-nitro-2-aminoindane hydrochloride: (14.58 g, 60%); m.p. >300° C.

reactant | 2-aminoindane hydrochloride | 0.112 mol, 19.11 g | Cl.NC1CC2=CC=CC=C2C1
reactant | potassium nitrate | 0.117 mol, 11.84 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | 5-nitro-2-aminoindane hydrochloride | Cl.[N+](=O)([O-])C=1C=C2CC(CC2=CC1)N | InChI=1S/C9H10N2O2.ClH/c10-8-3-6-1-2-9(11(12)13)5-7(6)4-8;/h1-2,5,8H,3-4,10H2;1H
